US07612084B2
tert-Butyl{2-[4-(allyloxy)phenyl]ethyl}carbamate
Allyl bromide (2.10 ml, 24.8 mmol) was added in one portion to a suspension of potassium carbonate (4.40 g, 31.8 mmol) and tert-butyl[2-(4-hydroxyphenyl)ethyl]carbamate (Prepared according to Journal of Organic Chemistry 1999, 64, 1074, 5.00 g, 21.1 mmol) in acetonitrile (50 ml) at room temperature. The reaction was stirred for 12 hours and the solvent removed in vacuo. Diethyl ether (50 ml) and water (20 ml) were added and the organics separated, washed with water (20 ml), dried (magnesium sulphate) and the solvent removed in vacuo to yield a clear oil. The oil was purified by column chromatography on silica gel eluting with ethyl acetate:pentane (25/75 by volume) to furnish the title compound as a white solid, 3.80 g.

reactant | Allyl bromide | 24.8 mmol, 2.10 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 31.8 mmol, 4.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl[2-(4-hydroxyphenyl)ethyl]carbamate | 21.1 mmol, 5.00 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tert-Butyl{2-[4-(allyloxy)phenyl]ethyl}carbamate | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OCC=C)=O | C16H23NO3
